US07161016B1
To a magnetically stirred solution of 0.5 ml (0.5 mmol) of LiAlH4 in Et2O, 100 mg (0.314 mmol) of arachidonic acid methyl ester in 2 mL of Et2O was added dropwise at 0° C. The reaction mixture was stirred for 1 h and then quenched by addition of 1 mL of EtOAC. 2 mL of saturated NH4Cl solution was added and the organic layer was separated, dried with MgSO4, filtered and evaporated. Chromatography on silica gel (eluents: CH2Cl2/petroleum ether up to 70% CH2Cl2), evaporation, followed by membrane filtration of a CH2Cl2 solution of the product gave 99.3 mg (0.292 mmol, 93% yield) of arachidonyl alcohol as a colorless oil: TLC (CHCl3) Rf 0.28; 1H NMR (200 MHZ, CDCl3) δ 5.37 (m, 8 H), 3.61 (t, 2 H, J=6 Hz), 2.79 (m, 6H), 2.08 (m, 4 H), 1.66–1.17 (m, 8H), 0.92 (t, 3H, J=7 Hz); Anal. C, H.

reactant | LiAlH4 | 0.5 mmol, 0.5 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | arachidonic acid methyl ester | 0.314 mmol, 100 mg | COC(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)=O | C21H34O2
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 2 mL | CCOCC | C4H10O
product | arachidonyl alcohol | 0.292 mmol, 99.3 mg, 93% yield | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)O | C20H34O
